US03947580
Ethyl 3-cyano-3-phenylpyruvate (50.0 g., 0.23 mol.) and 41.0 g. (0.35 mol.) of phenylacetonitrile were added to an alcoholic solution of sodium ethoxide [prepared from 13.4 g. (0.58 g. -atom) of sodium and 360 ml. of absolute ethanol] and the resulting yellow solution was refluxed for 1.75 hours. The cooled solution was diluted with 700 ml. of water and acidified by slow addition of acetic acid. After further cooling in ice, the suspension was filtered and the solid was washed with water and dried to give 2,5-diphenyl-3,4-dioxoadiponitrile, m.p. 284°-286° (dec.).

reactant | Ethyl 3-cyano-3-phenylpyruvate | 0.23 mol, 50.0 g | C(#N)C(C(C(=O)OCC)=O)C1=CC=CC=C1 | C12H11NO3
reactant | phenylacetonitrile | 0.35 mol | C1(=CC=CC=C1)CC#N | C8H7N
reactant | sodium ethoxide | 360 ml, 13.4 g | [O-]CC.[Na+]
reactant | sodium | 0.58 g | [Na] | Na
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2,5-diphenyl-3,4-dioxoadiponitrile | C1(=CC=CC=C1)C(C#N)C(C(C(C#N)C1=CC=CC=C1)=O)=O | C18H12N2O2
